US03953438
A solution of 60 mg. of lithium diisopropylamide in 10 cc. of HMPA is cooled to 0°C. and 260 mg. of diphenylmethyl 7-(4-chlorophenylthio)acetamido-3-hydroxy-3-cephem-4-carboxylate is added in one portion. After stirring the reaction mixture for 1 minute, 70 mg. of methyl fluorosulfonate is added, and stirring is continued for 30 minutes. The reaction mixture is poured into 50 cc. of ethyl acetate, washed with water, and dried. Removal of the solvent under reduced pressure provides diphenylmethyl 7-(4-chlorophenylthio)acetamido-3-methoxy-3-cephem-4-carboxylate.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diphenylmethyl 7-(4-chlorophenylthio)acetamido-3-hydroxy-3-cephem-4-carboxylate | ClC1=CC=C(C=C1)SCC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23ClN2O5S2
reactant | methyl fluorosulfonate | FS(=O)(=O)OC | CH3FO3S
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | diphenylmethyl 7-(4-chlorophenylthio)acetamido-3-methoxy-3-cephem-4-carboxylate | ClC1=CC=C(C=C1)SCC(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H25ClN2O5S2
